US08067408B2
1,1-Dimethylethyl 4-[(3-bromophenyl)methyl]-1-piperidinecarboxylate
To a solution of 1,1-dimethylethyl 4-[(3-bromophenyl)methylidene]-1-piperidinecarboxylate (201 mg, 0.571 mmol) in THF (1 mL) was applied onto H-Cube using 10% Pd/C at a flow rate of 1 mL/min and 1 atm H2. The mixture was concentrated to afford 0.1909 g (94%) of the title compound. LC-MS m/z 354 (M+H)+.

reactant | 1,1-dimethylethyl 4-[(3-bromophenyl)methylidene]-1-piperidinecarboxylate | 0.571 mmol, 201 mg | BrC=1C=C(C=CC1)C=C1CCN(CC1)C(=O)OC(C)(C)C | C17H22BrNO2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | [Pd] | Pd
product | 1,1-Dimethylethyl 4-[(3-bromophenyl)methyl]-1-piperidinecarboxylate | 0.1909 g, 94% | BrC=1C=C(C=CC1)CC1CCN(CC1)C(=O)OC(C)(C)C | C17H24BrNO2
